US09034866B2
Synthesis of (R)—N3-(3-fluorobenzyl)-10-(3-hydroxy-3-(5-methylisoxazol-3-yl)but-1-yn-1-yl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2,3-dicarboxamide
Prepared as described for (R)-10-(3-hydroxy-3-(5-methylisoxazol-3-yl)but-1-yn-1-yl)-N3-(tetrahydro-2H-pyran-4-yl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2,3-dicarboxamide replacing oxan-4-amine hydrochloride with 3-fluorobenzylamine. off-white solid (45.4 mg, 5%).

reactant | (R)-10-(3-hydroxy-3-(5-methylisoxazol-3-yl)but-1-yn-1-yl)-N3-(tetrahydro-2H-pyran-4-yl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2,3-dicarboxamide | O[C@@](C#CC=1C=CC2=C(C=3N(CCO2)C(=C(N3)C(=O)N)C(=O)NC3CCOCC3)C1)(C)C1=NOC(=C1)C | C26H27N5O6
reactant | 3-fluorobenzylamine | FC=1C=C(CN)C=CC1 | C7H8FN
product | (R)—N3-(3-fluorobenzyl)-10-(3-hydroxy-3-(5-methylisoxazol-3-yl)but-1-yn-1-yl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2,3-dicarboxamide | FC=1C=C(CNC(=O)C2=C(N=C3N2CCOC2=C3C=C(C=C2)C#C[C@](C)(C2=NOC(=C2)C)O)C(=O)N)C=CC1 | C28H24FN5O5
